US04010279
Ethyl 2-Methyl-2-{4-[2-methoxy-5-chloro-benzamido-methyl]-biphenyl-4'-oxy}-propionate by method A
2.7 gm (7.35 millimols) of 4-[2-methoxy-5-chlorobenzamido-methyl]-4'-hydroxy-biphenyl were refluxed in 30 ml of methyl ethyl ketone with 1.26 gm (9.2 millimols) of potassium carbonate for 1 to 2 hours, and then 2.23 gm (11 millimols) of ethyl 2-bromo-2-methyl-propionate were added dropwise. After three hours, another 0.63 gm (4.6 millimols) of potassium carbonate and 0.46 gm (2.2 millimols) of 2-bromo-2-methyl-propionate were added to complete the reaction, and the mixture was heated for 3 to 4 hours more. After cooling, filtering and distilling off the solvent, the residual crude product was purified by chromatography on a silicagel column with benzene/ethyl acetate (9:1) as the eluant. The evaluation of column chromatograph was carried out by thin-layer chromatography. The fractions containing the pure product were combined, and the solvent was distilled off, yielding 1.8 gm (51% of theory) of a slightly yellow oil. M.p. < 20° C.

reactant | 4-[2-methoxy-5-chlorobenzamido-methyl]-4'-hydroxy-biphenyl | 7.35 millimols, 2.7 gm | COC1=C(C(=O)NCC2=CC=C(C=C2)C2=CC=C(C=C2)O)C=C(C=C1)Cl | C21H18ClNO3
reactant | potassium carbonate | 9.2 millimols, 1.26 gm | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromo-2-methyl-propionate | 11 millimols, 2.23 gm | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | 4.6 millimols, 0.63 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-2-methyl-propionate | 2.2 millimols, 0.46 gm | BrC(C(=O)[O-])(C)C
solvent | methyl ethyl ketone | 30 ml | C(C)C(=O)C | C4H8O
product | Ethyl 2-Methyl-2-{4-[2-methoxy-5-chloro-benzamido-methyl]-biphenyl-4'-oxy}-propionate | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)CNC(C1=C(C=CC(=C1)Cl)OC)=O | C27H28ClNO5
